US07557121B2
Preparation 34: 5-Bromo-pyridine-2-carboxylic acid tert-butyl ester
para-Toluene sulfonyl chloride (262 mg, 1.38 mmol) was added to a solution of 5-bromo-2-carboxypyridine (118 mg, 0.58 mmol) and pyridine (0.3 mL, 0.39 mmol) in tert-butanol (1 mL) and the mixture was stirred at 40° C. for 10 minutes and room temperature for 2 hours. Saturated sodium hydrogen carbonate solution (4 mL) was then added and the mixture was stirred for 5 minutes. Diethyl ether was next added and the bi-phasic mixture was stirred for a further 10 minutes. The organic layer was then separated, washed with brine, dried over magnesium sulfate and concentrated in vacuo. Purification of the residue by column chromatography on silica gel, eluting with pentane:ethyl acetate, 100:0 to 80:20, afforded the title compound as a colourless solid in 73% yield, 110 mg.

reactant | para-Toluene sulfonyl chloride | 1.38 mmol, 262 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 5-bromo-2-carboxypyridine | 0.58 mmol, 118 mg | BrC=1C=CC(=NC1)C(=O)O | C6H4BrNO2
reactant | pyridine | 0.39 mmol, 0.3 mL | N1=CC=CC=C1 | C5H5N
reactant | sodium hydrogen carbonate | 4 mL | C(O)([O-])=O.[Na+]
solvent | tert-butanol | 1 mL | C(C)(C)(C)O | C4H10O
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 5-Bromo-pyridine-2-carboxylic acid tert-butyl ester | 73% yield | C(C)(C)(C)OC(=O)C1=NC=C(C=C1)Br | C10H12BrNO2
